US05223498
Ethylene oxide generated from 2-chloroethanol (36 g) and potassium hydroxide pellets (20 g) in methanol (60 ml) was reacted which 1,2-dimethylethylenediamine (22.6 g) in methanol (50 ml) at -15° C. to give N-(2-hydroxyethyl)-1,2-dimethylethylenediamine as a colourless liquid (m.p. 89°-91° C. at 1 mmHg).

reactant | Ethylene oxide | C1CO1 | C2H4O
reactant | 2-chloroethanol | 36 g | ClCCO | C2H5ClO
reactant | potassium hydroxide | [OH-].[K+]
reactant | 1,2-dimethylethylenediamine | 22.6 g | CC(C(N)C)N | C4H12N2
solvent | methanol | 60 ml | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
product | N-(2-hydroxyethyl)-1,2-dimethylethylenediamine | OCCNC(C(N)C)C | C6H16N2O
